US09334286B2
Preparation 55: 2-Chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidine
7-(1-Methyl-1H-pyrazol-4-yl)-2-(methylthio)pyrido[2,3-d]pyrimidine (Preparation 56, 13 mg, 0.05 mmol), was dissolved in acetonitrile and stirred at 0° C. for 15 minutes followed by the addition of SO2C2 in DCM. After 20 minutes the solution was quenched with NaHCO3 solution at 0° C., the organic solvents were removed in vacuo, and the solids were filtered, washed with water and dried to afford the title compound (7.5 mg, 60%).

reactant | 7-(1-Methyl-1H-pyrazol-4-yl)-2-(methylthio)pyrido[2,3-d]pyrimidine | 0.05 mmol, 13 mg | CN1N=CC(=C1)C=1C=CC2=C(N=C(N=C2)SC)N1 | C12H11N5S
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidine | 7.5 mg, 60% | ClC=1N=CC2=C(N1)N=C(C=C2)C=2C=NN(C2)C | C11H8ClN5
